US05616599
2-Propylimidazole-4,5-dicarbonitrile
Following a procedure similar to that described in Preparation 1, but using 16.0 g of diaminomaleonitrile and 24 g of trimethyl orthobutyrate, 18.7 g of the title compound were obtained as crystals, melting at 141°-144° C.

reactant | diaminomaleonitrile | 16.0 g | N/C(=C(/C#N)\N)/C#N | C4H4N4
reactant | trimethyl orthobutyrate | 24 g | C(CCC)(OC)(OC)OC | C7H16O3
product | 2-Propylimidazole-4,5-dicarbonitrile | 18.7 g | C(CC)C=1NC(=C(N1)C#N)C#N | C8H8N4
